US08133908B2
Description 24: (4S)-3-(diazoacetyl)-2,2-dimethyl-4-(2-propen-1-yl)-1,3-oxazolidine (D24)
{2-[(4S)-2,2-dimethyl-4-(2-propen-1-yl)-1,3-oxazolidin-3-yl]-2-oxoethyl}amine trifluoromethansulfonate D23 (67.0 g) was dissolved in DCM (670 ml) and pH=5 Buffer solution (670 ml) and cooled to 2° C. (internal). Sodium nitrite (26.5 g, 385 mmol) dissolved in water (134 ml) was added dropwise to the reaction mixture stirred at 2° C. over 30 min. The reaction mixture was stirred at 3° C. for 2.5 hours. Phases were separated. Water phase was back-extracted with DCM (1×670 ml, 1×335 ml). The combined organic layers, dried (Na2SO4), were evaporated (bath temperature 30° C.) to give 43 g of crude product. This crude was purified over silica pad [(230-400 Mesh) eluting with Cy/EtOAc 8/2, 7/3, 6/4] to give the title compound D24 (36.58 g) as pale yellow oil. UPLC (Acid GEN_QC): rt=0.59 minutes, peak observed: 210 (M+1) C10H15N3O2 requires 209. 1H NMR (400 MHz, CDCl3) δ ppm 1.58 (s, 3 H) 1.69 (s, 3 H) 2.25-2.50 (m, 2 H) 3.43-3.70 (m, 1 H) 3.82-4.01 (m, 2 H) 4.84 (s, 1 H) 5.09-5.24 (m, 2 H) 5.63-5.84 (m, 1 H)

reactant | {2-[(4S)-2,2-dimethyl-4-(2-propen-1-yl)-1,3-oxazolidin-3-yl]-2-oxoethyl}amine trifluoromethansulfonate | FC(S(=O)(=O)O)(F)F.CC1(OC[C@@H](N1C(CN)=O)CC=C)C
reactant | Sodium nitrite | 385 mmol, 26.5 g | N(=O)[O-].[Na+]
solvent | DCM | 670 ml | C(Cl)Cl | CH2Cl2
solvent | water | 134 ml | O | H2O
product | (4S)-3-(diazoacetyl)-2,2-dimethyl-4-(2-propen-1-yl)-1,3-oxazolidine | [N+](=[N-])=CC(=O)N1C(OC[C@@H]1CC=C)(C)C | C10H15N3O2
